US05200513
A solution of 0.7M diazomethane in ether was slowly added to a solution of 6.0 g (42.8 mmol) of 5-oxocyclohex-2-ene-1-carboxylic acid in 100 mL of ether at 0 degrees centigrade, with swirling. The addition of diazomethane was continued until the bubbling ceased and a yellow color persisted. The solution was treated with a rapid stream of nitrogen until the yellow color was discharged. The solvent was removed by evaporation. Benzene (100 mL) was added and evaporated at room temperature using an aspirator. The residue was placed on a vacuum line for 2 hours to produce 6.5 g (42.4 mmol, 99 percent) of methyl 5-oxocyclohex-2-ene-1-carboxylate (oil).

reactant | diazomethane | 0.7M | [N+](=[N-])=C | CH2N2
reactant | 5-oxocyclohex-2-ene-1-carboxylic acid | 42.8 mmol, 6.0 g | O=C1CC=CC(C1)C(=O)O | C7H8O3
solvent | ether | CCOCC | C4H10O
solvent | ether | 100 mL | CCOCC | C4H10O
product | methyl 5-oxocyclohex-2-ene-1-carboxylate | 42.4 mmol, 6.5 g, 99 percent | O=C1CC=CC(C1)C(=O)OC | C8H10O3
